US08791134B2
1-Nitrosocyclohexyl 2-cyanoacetate was prepared from cyclohexanone oxime, lead tetraacetate and cyanoacetic acid using conditions of General Method 3. 1H NMR (250 MHz, chloroform-d) δ 3.62 (2H, s), 2.01-2.21 (2H, m), 1.70-1.97 (5H, m), 1.41-1.69 (3H, m).

reactant | cyclohexanone oxime | C1(CCCCC1)=NO | C6H11NO
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
product | 1-Nitrosocyclohexyl 2-cyanoacetate | C(#N)CC(=O)OC1(CCCCC1)N=O | C9H12N2O3
